US09119868B2
A mixture of ethyl 6-amino-5-cyclopropyl-2-(4-fluorophenyl)benzofuran-3-carboxylate (1.00 g, 2.95 mmol), (3-bromophenyl)boronic acid (1.184 g, 5.89 mmol), copper(II) acetate (0.803 g, 4.42 mmol), triethylamine (1.232 mL, 8.84 mmol) and 4 A molecular sieves (2 g) was stirred at room temperature for 24 hours. The reaction mixture was diluted with EtOAc and filtered through Celite. The solvent was evaporated and the residue was purified by chromatography on silica gel (hexane:EtOAc) to give ethyl 6-((3-bromophenyl)amino)-5-cyclopropyl-2-(4-fluorophenyl)benzofuran-3-carboxylate (740 mg, 51%). LCMS (m/z, ES+)=494, 496 (M+H, M+2).

reactant | ethyl 6-amino-5-cyclopropyl-2-(4-fluorophenyl)benzofuran-3-carboxylate | 2.95 mmol, 1.00 g | NC1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)OCC)C=C1C1CC1 | C20H18FNO3
reactant | (3-bromophenyl)boronic acid | 5.89 mmol, 1.184 g | BrC=1C=C(C=CC1)B(O)O | C6H6BBrO2
reactant | triethylamine | 8.84 mmol, 1.232 mL | C(C)N(CC)CC | C6H15N
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | copper(II) acetate | 4.42 mmol, 0.803 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | ethyl 6-((3-bromophenyl)amino)-5-cyclopropyl-2-(4-fluorophenyl)benzofuran-3-carboxylate | 740 mg, 51% | BrC=1C=C(C=CC1)NC1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)OCC)C=C1C1CC1 | C26H21BrFNO3
